*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : BLM18HE601SN1
* Property : Z@100MHz = 600[ohm]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 3GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT BLM18HE601SN1 port1 port2
R1 port1 1 432.1
C2 1 2 1.429e-11
L1 port1 2 1.048e-6
R2 2 3 494.9
L2 2 3 2.373e-7
C1 port1 3 1.959e-13
R3 3 4 7.617e-1
L3 3 4 3.218e-8
R4 4 port2 1.500e-1
.ENDS BLM18HE601SN1
*----------------------------------------------------------------------
