*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN27NJ8Z
* Property : L = 27[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 50MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN27NJ8Z port1 port2
C1 port1 port2 5.04e-14
L2 port1 1 2.75e-8
R2 1 port2 8.10e-2
R3 port1 port2 2.28e+4
L4 port1 2 4.58e-7
R4 2 port2 79.6
L5 port1 3 1.35e-6
R5 3 port2 1.59e+3
L6 port1 4 2.47e-6
C6 4 5 2.28e-16
R6 5 port2 281
L7 port1 6 8.43e-8
C7 6 7 2.24e-15
R7 7 port2 365
.ENDS LQW18AN27NJ8Z
*----------------------------------------------------------------------
