*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1608M/0603/100[pF]/16.0[V]/0.5[A]
* Murata P/N :NFM18CC101R1C3
* Connection : feedthrough
* Property : C = 100[pF]
* Data Generated on Aug 1, 2018
* Term1:THRU1, Term2:GND1&GND2, Term3:THRU2
* 
*                Term2
*         +--+---+--+---+--+
*         |  |   +--+   |  |
*   Term1 |  |          |  | Term3
*         |  |   +--+   |  |
*         +--+---+--+---+--+
*                Term2
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100.0kHz-6.0GHz
*   Temperature = 25degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT NFM18CC101R1C3_DC0V_25degC Term1  Term2  Term3
C1L Term1 12 2.70e-12
L1L 12 13 1.50e-14
R1L 13 Term2 8.57
C2 31 32 9.00e-11
L2 32 33 1.20e-14
R2 33 Term2 5.30e-1
C1R Term3 52 2.70e-12
L1R 52 53 1.50e-14
R1R 53 Term2 8.57
Rt1L Term1 21 2.75e-2
Lt1L 21 31 3.14e-10
Rt1R 31 41 2.75e-2
Lt1R 41 Term3 3.14e-10
.ENDS NFM18CC101R1C3_DC0V_25degC
*----------------------------------------------------------------------
